US07982071B2
Cycloheptylmethanol was coupled with 3-bromophenol following the method used in Example 10. After concentration under reduced pressure, hexanes was added. The mixture was stirred and sonicated then the precipitate was removed by filtration and the solids washed with hexanes. The combined filtrates were concentrated under reduced pressure. Purification by flash chromatography (10 to 50% EtOAc-hexanes gradient) gave ((3-bromophenoxy)methyl)cycloheptane. (Yield 1.0697 g, 56%): 1H NMR (400 MHz, CDCl3) δ 7.12 (t, J=8.4, 1H), 7.06-7.04 (m, 2H), 6.82 (dq, J=8.0, 1.2, 1H), 3.70 (d, J=6.4, 2H), 1.91-1.98 (m, 1H), 1.81-1.88 (m, 2H), 1.42-1.72 (m, 8H), 1.24-1.34 (m, 2H).

reactant | Cycloheptylmethanol | C1(CCCCCC1)CO | C8H16O
reactant | 3-bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
product | ((3-bromophenoxy)methyl)cycloheptane | BrC=1C=C(OCC2CCCCCC2)C=CC1 | C14H19BrO
